US03954732
To a solution of methyl 2-oxo-3-(2-phenoxy-acetamido)-4-anilinothio-α-isopropenyl-1-azetidineacetate (0.12 g), in dried methylene chloride (5ml) was added 5% methanolic hydrochloric acid (0.8 ml) and the mixture was stirred for 10 hours at room temperature. After the reaction, methylene chloride was distilled off under reduced pressure from the reaction mixture. The residue was extracted with ethyl acetate and the extract was washed with water and dried. The solvent was distilled off to give oily methyl 2-chloromethyl-2-methyl-6-(2-phenoxyacetamido)-penam-3-carboxylate (0.085 g). Infrared Absorption Spectrum (Chloroform)

reactant | methyl 2-oxo-3-(2-phenoxy-acetamido)-4-anilinothio-α-isopropenyl-1-azetidineacetate | 0.12 g | O=C1N(C(C1NC(COC1=CC=CC=C1)=O)SNC1=CC=CC=C1)C(C(=O)OC)C(=C)C | C23H25N3O5S
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | methylene chloride | 5ml | C(Cl)Cl | CH2Cl2
product | methyl 2-chloromethyl-2-methyl-6-(2-phenoxyacetamido)-penam-3-carboxylate | 0.085 g | ClCC1(S[C@H]2N(C1C(=O)OC)C(C2NC(COC2=CC=CC=C2)=O)=O)C | C17H19ClN2O5S
